US08053446B2
1-[6-(N-tert-Butoxycarbonylamino)-1-hexyl]-4-[2-hydroxy-1-ethylcarbamoyl]-1,2-dihydroquinoline-2-one
A mixture of 4-(2-hydroxy-1-ethylcarbamoyl)-2-hydroxyquinoline (1.2 g), N-(tert-butoxycarbonyl)-6-bromo-hexylamine (2.2 g), cesium carbonate (4 g) and N,N-dimethylformamide (50 ml) was stirred for 6 hours at 60° C. followed by stirring overnight at room temperature. Ice and water were added and the mixture was extracted three times with ethyl acetate. The organic phases were washed with saturated sodium chloride, dried and evaporated to leave a yellow oil which after purification by chromatography on silica gel with ethyl acetate/methanol/aqueous ammonia (45:5:1.5) as eluent gave the desired compound as a light brown solid.

reactant | 4-(2-hydroxy-1-ethylcarbamoyl)-2-hydroxyquinoline | 1.2 g | OCCNC(=O)C1=CC(=NC2=CC=CC=C12)O | C12H12N2O3
reactant | N-(tert-butoxycarbonyl)-6-bromo-hexylamine | 2.2 g | C(C)(C)(C)OC(=O)NCCCCCCBr | C11H22BrNO2
reactant | cesium carbonate | 4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[6-(N-tert-Butoxycarbonylamino)-1-hexyl]-4-[2-hydroxy-1-ethylcarbamoyl]-1,2-dihydroquinoline-2-one | C(C)(C)(C)OC(=O)NCCCCCCN1C(C=C(C2=CC=CC=C12)C(NCCO)=O)=O | C23H33N3O5
